US07528140B2
After dissolving ethoxymethylenemalononitrile (10.2 g) in acetonitrile (200 mL), 3-isopropoxypropylamine (9.8 g) was added thereto and the mixture was stirred for 10 minutes. Cesium carbonate (68 g) and methyl bromoacetate (32 g) were added and the mixture was heated to reflux for 30 minutes. After cooling to room temperature, the supernatant was separated by decantation, and the solvent was distilled off under reduced pressure. The concentrated residue was combined with the solid portion remaining after decantation, ethyl acetate and water were added, and extraction was performed 3 times with ethyl acetate. The organic layer was washed with saturated brine and then dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in ethyl acetate and passed through a silica gel, and then ethyl acetate (200 mL) was added for elution. The eluate was concentrated under reduced pressure to obtain a methyl 3-amino-4-cyano-1-[3-(methylethoxy)propyl]pyrrole-2-carboxylate crude product as a brown oil.

reactant | ethoxymethylenemalononitrile | 10.2 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 3-isopropoxypropylamine | 9.8 g | C(C)(C)OCCCN | C6H15NO
reactant | Cesium carbonate | 68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl bromoacetate | 32 g | BrCC(=O)OC | C3H5BrO2
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | methyl 3-amino-4-cyano-1-[3-(methylethoxy)propyl]pyrrole-2-carboxylate | NC1=C(N(C=C1C#N)CCCOC(C)C)C(=O)OC | C13H19N3O3
